US07485739B2
Preparation of 1,2-bis-(dicyclopentylphosphinomethyl)ferrocene
The title compound was prepared in accordance with the procedure of Example 2 employing dicyclopentylphosphine (Strem 566 mg, 3.33 mmol), 1,2-bis(dimethylaminomethyl)ferrocene (0.5 g, 1.66 mmol) and anhydrous acetic acid (100 ml). Yield 0.432 g.

reactant | dicyclopentylphosphine | 3.33 mmol, 566 mg | C1(CCCC1)PC1CCCC1 | C10H19P
reactant | 1,2-bis(dimethylaminomethyl)ferrocene | 1.66 mmol, 0.5 g | CN(C)C[C-]1C(=CC=C1)CN(C)C.[CH-]1C=CC=C1.[Fe+2]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,2-bis-(dicyclopentylphosphinomethyl)ferrocene | C1(CCCC1)P(C1CCCC1)C[C-]1C(=CC=C1)CP(C1CCCC1)C1CCCC1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C27H43P2.C5H5.Fe/c1-2-13-24(12-1)28(25-14-3-4-15-25)20-22-10-9-11-23(22)21-29(26-16-5-6-17-26)27-18-7-8-19-27;1-2-4-5-3-1;/h9-11,24-27H,1-8,12-21H2;1-5H;/q2*-1;+2
